US20010000513A1
In a manner similar to Example 4, Step (c), 4-(3′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid (0.9258 g, 0.00340 mol) was allowed to react with hydroxylamine hydrochloride (0.284 g, 0.00409 mol) in the presence of sodium carbonate (0.434 g, 0.00409 mol) in absolute ethanol (19 mL) to give 4-(3′-fluoro-biphenyl-4-yl)-4-hydroxyimino-butyric acid as a pale gray solid: mp 155-157° C.

reactant | 4-(3′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid | 0.00340 mol, 0.9258 g | FC=1C=C(C=CC1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H13FO3
reactant | hydroxylamine hydrochloride | 0.00409 mol, 0.284 g | Cl.NO
reactant | sodium carbonate | 0.00409 mol, 0.434 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 19 mL | C(C)O | C2H6O
product | 4-(3′-fluoro-biphenyl-4-yl)-4-hydroxyimino-butyric acid | FC=1C=C(C=CC1)C1=CC=C(C=C1)C(CCC(=O)O)=NO | C16H14FNO3
